US08980934B2
2-(Pyrrolidin-1-yl)-2-(thiophen-3-yl)acetic acid
A mixture of glyoxylic acid monohydrate (10.79 g, 0.11 mol) and pyrrolidine (9.69 mL, 0.11 mol) in DCM (375 mL) was sonicated for 15 minutes. Thiophene-3-boronic acid (15 g, 0.11 mol) was added and the mixture was stirred at rt for 24 h. The solid was filtered and washed with little DCM to gave 38 g crude product as crop-1. The mother liquor concentrated under reduced pressure to give an additional 4 g as crop-2. The combined crude product purified by Biotgae SNAP 100 g silica column (gradient 0-50% MeOH in DCM) gave the title compound as a cream solid (21.7 g, 70%). 1H NMR (400 MHz, CD3OD) δ ppm 7.66 (dd, J=2.8 Hz, J=1.2 Hz, 1H), 7.53 (dd, J=5.2 Hz, J=2.8 Hz, 1H), 7.28 (dd, J=5.2 Hz, J=1.2 Hz, 1H), 4.65 (s, 1H), 3.06 (br. s, 2H), 2.04-1.95 (br. s, 4H), 2H merged with solvent peak; MS ESI 212 [M+H]+, calcd for [C10H13NO2S+H]+ 212.07.

reactant | glyoxylic acid monohydrate | 0.11 mol, 10.79 g | O.C(C=O)(=O)O
reactant | pyrrolidine | 0.11 mol, 9.69 mL | N1CCCC1 | C4H9N
reactant | Thiophene-3-boronic acid | 0.11 mol, 15 g | S1C=C(C=C1)B(O)O | C4H5BO2S
solvent | DCM | 375 mL | C(Cl)Cl | CH2Cl2
product | 2-(Pyrrolidin-1-yl)-2-(thiophen-3-yl)acetic acid | 21.7 g, 70% | N1(CCCC1)C(C(=O)O)C1=CSC=C1 | C10H13NO2S
